US04451473
10 g of 3,7-dimethyl-3,7-diazabicyclo[3.3.1]nonane-9-ol are dissolved in 50 ml of dry pyridine, and a solution of 11.24 g of benzoyl chloride in 50 ml of dry pyridine is added dropwise, within 30 minutes, to the solution stirred at 5°-10° C. Thereafter the reaction mixture is stirred at room temperature for 3 hours, and the bulk of pyridine is distilled off under vacuo. The residue is taken up in 50 ml of water, the mixture is acidified with 20 ml of concentrated aqueous hydrochloric acid, and the mixture is extracted thrice with 50 ml of ether, each, in order to remove the non-basic substances. The aqueous phase is rendered alkaline with potassium carbonate and extracted thrice with 50 ml of chloroform, each. The chloroform solutions are combined, dried over magnesium sulfate, filtered, and the filtrate is evaporated. The residue is crystallized from n-hexane. 3,7-Dimethyl-9-benzoyloxy-3,7-diazabicyclo[3.3.1]nonane is obtained with a yield of 42.5%; m.p.: 100°-102° C.

reactant | 3,7-dimethyl-3,7-diazabicyclo[3.3.1]nonane-9-ol | 10 g | CN1CC2CN(CC(C1)C2O)C | C9H18N2O
reactant | benzoyl chloride | 11.24 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3,7-Dimethyl-9-benzoyloxy-3,7-diazabicyclo[3.3.1]nonane | yield of 42.5% | CN1CC2CN(CC(C1)C2OC(C2=CC=CC=C2)=O)C | C16H22N2O2
